US07405221B2
2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine from Reference Example 3 was reacted with 5-chloro-3-hydroxypyridine according to the procedure described in Example 74 to afford 2-(5-chloro-3-pyridyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine: HPLC/MS: m/e=462 (M++1); Rt=4.40 min; 1H-NMR 400 MHz (CDCl3): δ 7.05. (d, J=9 Hz, 2H), 7.21 (d, J=10 Hz, 1H), 7.25-7.31 (m, 3H), 7.41 (s, 1H), 7.75 (s, 1H), 8.50 (s, 1H), 8.55 (s, 1H), 8.62 (s, 1H).

reactant | 2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | CS(=O)(=O)C1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
reactant | 5-chloro-3-hydroxypyridine | ClC=1C=C(C=NC1)O | C5H4ClNO
product | 2-(5-chloro-3-pyridyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | ClC=1C=C(C=NC1)OC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C21H11Cl4N3O
